US09340520B2
In a 1 L flask equipped with a condenser which was stoppered with a septum and vented with a needle, a solution of (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-formamidoacetate (17.6 g, 72.3 mmol) in ethanol (409 mL) and 1.5 N HCl (aq) (409 mL) was heated in a pre-equilibrated oil bath at 52° C. for 7.5 h. The volatile component was removed under vacuum and the residue was azeotroped with EtOH (2×50 mL) and dried under vacuum overnight to afford a white foam. The white foam was dissolved into DCM (409 mL) and N,N-diisopropylethylamine (38.0 mL, 218 mmol) was added dropwise over 10 min followed by methyl chlorocarbonate (8.40 mL, 109 mmol), also added dropwise over 10 min. The reaction mixture was stirred at ambient temperature for 4.5 h and then quenched carefully with 1 N HCl (100 mL). The layers were separated and the organic layer was washed with 1 N HCl (50 mL) and then with an aqueous basic solution (50 mL water+2 mL sat. NaHCO3). The organic layer was dried (MgSO4), filtered, and concentrated. The residue was purified with a Biotage® (300 g SiO2; sample was loaded onto column with a minimal amount of chloroform, and eluted with 30% EtOAc/hexanes) to yield (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonyl-amino)acetate (13.8 g) as a viscous yellow oil. 1H-NMR (400 MHz, CDCl3) δ 5.23 (d, J=8.8 Hz, 1H), 4.34-4.15 (m, 4H), 3.81-3.72 (m, 1H), 3.70 (s, 3H), 2.35-2.23 (m, 1H), 1.63-1.51 (m, 2H), 1.34-1.27 (‘m’ & ‘t’ overlapped, J=7.0 Hz, 1H & 3H), 1.25 (d, J=6.8 Hz, 3H), 1.14 (d, J=6.0 Hz, 3H), 1.11-0.99 (m, 1H). LC-MS retention time 2.89 min; m/z 296.23 (M+Na)+. LC data were recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 3μ C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min. Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid, and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data were determined using a Micromass Platform for LC in electrospray mode.

reactant | (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-formamidoacetate | 72.3 mmol, 17.6 g | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)OCC)NC=O)C | C12H21NO4
reactant | DCM | 409 mL | C(Cl)Cl | CH2Cl2
reactant | N,N-diisopropylethylamine | 218 mmol, 38.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl chlorocarbonate | 109 mmol, 8.40 mL | C(OC)(=O)Cl | C2H3ClO2
solvent | ethanol | 409 mL | C(C)O | C2H6O
solvent | HCl | 1.5 N, 409 mL | Cl | ClH
product | (S)-ethyl 2-((2R,6R)-2,6-dimethyltetrahydro-2H-pyran-4-yl)-2-(methoxycarbonyl-amino)acetate | 13.8 g | C[C@H]1O[C@@H](CC(C1)[C@@H](C(=O)OCC)NC(=O)OC)C | C13H23NO5
